US05100761
10-(2) Synthesis of 1-(3-phenoxycarbonylaminophenyl)-5-mercaptotetrazole
After dissolving 391 g of 1-(3-aminophenyl)- 5-mercaptotetrazole hydrochloride in 800 ml of N,N-dimethylformamide in a nitrogen gas atmosphere, the mixture was cooled to a temperature below 0° C. After adding thereto 302 ml of pyridine, 294 g of phenyl chloroformate were added dropwise to the s-lution while cooling with stirring so that the liquid temperature was not over 0° C. After further stirring the mixture for one hour at a temperature below 0° C., the reaction mixture was added dropwise to 5 liters of a saturated aqueous sodium chloride solution followed by stirring for 30 minutes. Crystals formed were collected by filtration and washed with 2 liters of water to provide 495 g of the desired compound with a yield of 93%.

reactant | 1-(3-aminophenyl)- 5-mercaptotetrazole hydrochloride | 391 g | Cl.NC=1C=C(C=CC1)N1N=NN=C1S
reactant | pyridine | 302 ml | N1=CC=CC=C1 | C5H5N
reactant | phenyl chloroformate | 294 g | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
reactant | sodium chloride | 5 liters | [Cl-].[Na+]
solvent | N,N-dimethylformamide | 800 ml | CN(C=O)C | C3H7NO
product | 1-(3-phenoxycarbonylaminophenyl)-5-mercaptotetrazole | 495 g, yield of 93% | O(C1=CC=CC=C1)C(=O)NC=1C=C(C=CC1)N1N=NN=C1S | C14H11N5O2S
